US07692005B2
2-Isopropyl-2H-pyrazole-3-carboxylic acid [3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide
A small screw cap test tube was charged with 2-Isopropyl-2H-pyrazole-3-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (prepared below, 138 mg, 0.3314 mmol) and THF (3.3 mL). To the resulting solution was added 4-(4-methyl-piperazin-1-yl)-phenylamine (63.3 mg, 0.331 mmol), and the mixture was stirred for 24 h at 65° C. Subsequently, the reaction mixture was cooled to room temperature and diluted with EtOAc (˜5 mL) and Hexane (˜40 mL). The precipitate that formed was collected by filtration and washed with 0° C. iPrOH (˜10 mL) to afford the title compound in 65% yield (0.127 g, 0.215 mmol).

reactant | 2-Isopropyl-2H-pyrazole-3-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.3314 mmol, 138 mg | OC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1N(N=CC1)C(C)C)=O | C23H20N4O4
reactant | THF | 3.3 mL | C1CCOC1 | C4H8O
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.331 mmol, 63.3 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | EtOAc | ˜5 mL | CCOC(=O)C | C4H8O2
solvent | Hexane | ˜40 mL | CCCCCC | C6H14
product | 2-Isopropyl-2H-pyrazole-3-carboxylic acid [3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 65% yield | CN1CCN(CC1)C1=CC=C(C=C1)NC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1N(N=CC1)C(C)C)=O | C34H35N7O3
